US08440689B2
D. 4-(1H-Indazol-6-ylamino)-6-((1R,2S)-2-aminocyclohexylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a solution of methyl 2-(1H-indazol-6-ylamino)-6-((1R,2S)-2-aminocyclohexylamino)-4-cyanonicotinate (88 mg, 218 mmol) in MeOH (2 mL) was added palladium on carbon, and the resulting mixture was stirred at room temperature overnight under H2 atmosphere. The mixture was subsequently filtered to remove the catalyst and the filtrate was evaporated. The residue was diluted with saturated aq NaHCO3 and MeOH, and the mixture was stirred at RT for 30 min. The resulting suspension was filtered and the precipitate was washed with EtOAc and dried to give the title compound as a white solid (15 mg, 18.2%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.22-1.74 (m, 8H), 3.13 (br s, 1H), 3.94-4.07 (m, 1H), 4.21 (s, 2H), 6.02-6.14 (m, 1H), 6.70 (br s, 1H), 7.13 (d, J=8.30 Hz, 1H), 7.63 (d, J=8.30 Hz, 1H), 7.94 (d, J=2.93 Hz, 2H), 8.23 (s, 1H), 9.08 (s, 1H), 12.84 (br s, 1H). [M+H] calc'd for C20H23N7O, 378. found, 378.

reactant | methyl 2-(1H-indazol-6-ylamino)-6-((1R,2S)-2-aminocyclohexylamino)-4-cyanonicotinate | 218 mmol, 88 mg | N1N=CC2=CC=C(C=C12)NC1=C(C(=O)OC)C(=CC(=N1)N[C@H]1[C@H](CCCC1)N)C#N | C21H23N7O2
solvent | MeOH | 2 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(1H-Indazol-6-ylamino)-6-((1R,2S)-2-aminocyclohexylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 15 mg, 18.2% | N1N=CC2=CC=C(C=C12)NC1=NC(=CC2=C1C(NC2)=O)N[C@H]2[C@H](CCCC2)N | C20H23N7O
